US09107412B2
A suspension of dry, solid sodium ethoxide (Aldrich, 10.2 g, 150 mmol) in a mixture of xylenes (60 mL) and anhydrous ethanol (25 mL) was stirred at 70° C., and a solution of 2-chloro-4-fluorobenzeneacetonitrile (16.96 g, 100 mmol) in a mixture of ethyl acetate (30 mL) and ethanol (5 mL) was added dropwise to the hot reaction mixture over 20 minutes. The reaction mixture was heated at 75-78° C. for 3 h and then allowed to cool. Water (50 mL) was added to dissolve solids. The mixture was extracted once with ethyl acetate, and the extract was discarded. The aqueous phase was acidified to pH 2 by addition of 1 N aqueous hydrochloric acid, and then extracted with ethyl acetate (50 mL). The ethyl acetate phase was dried (MgSO4) and evaporated to provide the intermediate product α-acetyl-2-chloro-4-fluorobenzeneacetonitrile as a solid (14.8 g).

reactant | sodium ethoxide | 150 mmol, 10.2 g | [O-]CC.[Na+]
reactant | 2-chloro-4-fluorobenzeneacetonitrile | 100 mmol, 16.96 g | ClC1=C(C=CC(=C1)F)CC#N | C8H5ClFN
reactant | Water | 50 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | α-acetyl-2-chloro-4-fluorobenzeneacetonitrile | 14.8 g | C(C)(=O)C(C#N)C1=C(C=C(C=C1)F)Cl | C10H7ClFNO
